US06656965B2
Preparation of Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-[N′α-(4-methylbenzenesulfonyl)-O-benzyl-L-seryl]-L-lysine
The title compound was prepared from solid phase bound Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine (200 mg, 0.1 mmol) in a similar fashion to general procedure Bb using commercially available Nα-(9-fluorenylmethoxycarbonyl)-O-benzyl-L-serine (100 mg, 0.24 mmol) with DCC (100 mg, 0.48 mmol) and HOBt (50 mg, 0.37 mmol) as the activating reagents. The intermediate adduct was again deprotected and coupled with 4-methylbenzenesulfonyl chloride in CH2Cl2 before being cleaved from the resin with TFA. The final product was purified by preparative HPLC to yield 30 mg (42%) of the desired material.

reactant | Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine | 0.1 mmol, 200 mg | C(C(C)C)N([C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C32H38N2O6S
reactant | Nα-(9-fluorenylmethoxycarbonyl)-O-benzyl-L-serine | 0.24 mmol, 100 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C25H23NO5
reactant | DCC | 0.48 mmol, 100 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-[N′α-(4-methylbenzenesulfonyl)-O-benzyl-L-seryl]-L-lysine | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)NCCCC[C@@H](C(=O)O)N(CC(C)C)S(=O)(=O)C3=CC=C(C=C3)C | C34H45N3O8S2
